**** DUT instance
XCSamp_1 in vo_1 CSAMP_1 
**** Save output voltage for each instance

***.save vm(vo_1)


************** CS AMP Basic Optimization **********
* Common-source amplifier

.subckt CSAMP_1 vs vo 
.model nch nmos level=1 vto=0.5 kp=50u tox=15n 
.param rd=995

.param vov = '0.34770124983869743 *1'    

vs   vs   0    ac  1 dc '0.5+vov'  
vb   vb   0    2.5
ib   0    vo   '0.0005350753077861613 *1'  
****Bias Current 



rs   vs   vg   '2*rd' 
rd   vb   vo   'rd'
m1   vo   vg   0  0  nch   w=0.00026069352372727817 l=1u
cl   vo   0    1e-12
.ends


*************************************************************
*************************************************************
********************End Index 0******************************
*************************************************************
*************************************************************

**** DUT instance
XCSamp_2 in vo_2 CSAMP_2 
**** Save output voltage for each instance

***.save vm(vo_2)


************** CS AMP Basic Optimization **********
* Common-source amplifier

.subckt CSAMP_2 vs vo 
.model nch nmos level=1 vto=0.5 kp=50u tox=15n 
.param rd=995

.param vov = '0.4227012498386974 *1'    

vs   vs   0    ac  1 dc '0.5+vov'  
vb   vb   0    2.5
ib   0    vo   '0.0007350753077861612 *1'  
****Bias Current 



rs   vs   vg   '2*rd' 
rd   vb   vo   'rd'
m1   vo   vg   0  0  nch   w=0.00017069352372727818 l=1u
cl   vo   0    1e-12
.ends


*************************************************************
*************************************************************
********************End Index 1******************************
*************************************************************
*************************************************************

**** DUT instance
XCSamp_3 in vo_3 CSAMP_3 
**** Save output voltage for each instance

***.save vm(vo_3)


************** CS AMP Basic Optimization **********
* Common-source amplifier

.subckt CSAMP_3 vs vo 
.model nch nmos level=1 vto=0.5 kp=50u tox=15n 
.param rd=995

.param vov = '0.27270124983869737 *1'    

vs   vs   0    ac  1 dc '0.5+vov'  
vb   vb   0    2.5
ib   0    vo   '0.00033507530778616114 *1'  
****Bias Current 



rs   vs   vg   '2*rd' 
rd   vb   vo   'rd'
m1   vo   vg   0  0  nch   w=0.0004406935237272782 l=1u
cl   vo   0    1e-12
.ends


*************************************************************
*************************************************************
********************End Index 2******************************
*************************************************************
*************************************************************

**** DUT instance
XCSamp_4 in vo_4 CSAMP_4 
**** Save output voltage for each instance

***.save vm(vo_4)


************** CS AMP Basic Optimization **********
* Common-source amplifier

.subckt CSAMP_4 vs vo 
.model nch nmos level=1 vto=0.5 kp=50u tox=15n 
.param rd=995

.param vov = '0.46020124983869737 *1'    

vs   vs   0    ac  1 dc '0.5+vov'  
vb   vb   0    2.5
ib   0    vo   '0.0004684086411194944 *1'  
****Bias Current 



rs   vs   vg   '2*rd' 
rd   vb   vo   'rd'
m1   vo   vg   0  0  nch   w=6.269352372727818e-05 l=1u
cl   vo   0    1e-12
.ends


*************************************************************
*************************************************************
********************End Index 3******************************
*************************************************************
*************************************************************

**** DUT instance
XCSamp_5 in vo_5 CSAMP_5 
**** Save output voltage for each instance

***.save vm(vo_5)


************** CS AMP Basic Optimization **********
* Common-source amplifier

.subckt CSAMP_5 vs vo 
.model nch nmos level=1 vto=0.5 kp=50u tox=15n 
.param rd=995

.param vov = '0.3102012498386974 *1'    

vs   vs   0    ac  1 dc '0.5+vov'  
vb   vb   0    2.5
ib   0    vo   '0.0006684086411194945 *1'  
****Bias Current 



rs   vs   vg   '2*rd' 
rd   vb   vo   'rd'
m1   vo   vg   0  0  nch   w=0.00033269352372727824 l=1u
cl   vo   0    1e-12
.ends


*************************************************************
*************************************************************
********************End Index 4******************************
*************************************************************
*************************************************************

**** DUT instance
XCSamp_6 in vo_6 CSAMP_6 
**** Save output voltage for each instance

***.save vm(vo_6)


************** CS AMP Basic Optimization **********
* Common-source amplifier

.subckt CSAMP_6 vs vo 
.model nch nmos level=1 vto=0.5 kp=50u tox=15n 
.param rd=995

.param vov = '0.3852012498386974 *1'    

vs   vs   0    ac  1 dc '0.5+vov'  
vb   vb   0    2.5
ib   0    vo   '0.0002684086411194945 *1'  
****Bias Current 



rs   vs   vg   '2*rd' 
rd   vb   vo   'rd'
m1   vo   vg   0  0  nch   w=0.0002426935237272782 l=1u
cl   vo   0    1e-12
.ends


*************************************************************
*************************************************************
********************End Index 5******************************
*************************************************************
*************************************************************

**** DUT instance
XCSamp_7 in vo_7 CSAMP_7 
**** Save output voltage for each instance

***.save vm(vo_7)


************** CS AMP Basic Optimization **********
* Common-source amplifier

.subckt CSAMP_7 vs vo 
.model nch nmos level=1 vto=0.5 kp=50u tox=15n 
.param rd=995

.param vov = '0.2352012498386974 *1'    

vs   vs   0    ac  1 dc '0.5+vov'  
vb   vb   0    2.5
ib   0    vo   '0.00044618641889727223 *1'  
****Bias Current 



rs   vs   vg   '2*rd' 
rd   vb   vo   'rd'
m1   vo   vg   0  0  nch   w=0.00015269352372727818 l=1u
cl   vo   0    1e-12
.ends


*************************************************************
*************************************************************
********************End Index 6******************************
*************************************************************
*************************************************************

**** DUT instance
XCSamp_8 in vo_8 CSAMP_8 
**** Save output voltage for each instance

***.save vm(vo_8)


************** CS AMP Basic Optimization **********
* Common-source amplifier

.subckt CSAMP_8 vs vo 
.model nch nmos level=1 vto=0.5 kp=50u tox=15n 
.param rd=995

.param vov = '0.4789512498386974 *1'    

vs   vs   0    ac  1 dc '0.5+vov'  
vb   vb   0    2.5
ib   0    vo   '0.0006461864188972724 *1'  
****Bias Current 



rs   vs   vg   '2*rd' 
rd   vb   vo   'rd'
m1   vo   vg   0  0  nch   w=0.0004226935237272782 l=1u
cl   vo   0    1e-12
.ends


*************************************************************
*************************************************************
********************End Index 7******************************
*************************************************************
*************************************************************

**** DUT instance
XCSamp_9 in vo_9 CSAMP_9 
**** Save output voltage for each instance

***.save vm(vo_9)


************** CS AMP Basic Optimization **********
* Common-source amplifier

.subckt CSAMP_9 vs vo 
.model nch nmos level=1 vto=0.5 kp=50u tox=15n 
.param rd=995

.param vov = '0.3289512498386974 *1'    

vs   vs   0    ac  1 dc '0.5+vov'  
vb   vb   0    2.5
ib   0    vo   '0.00024618641889727225 *1'  
****Bias Current 



rs   vs   vg   '2*rd' 
rd   vb   vo   'rd'
m1   vo   vg   0  0  nch   w=9.869352372727816e-05 l=1u
cl   vo   0    1e-12
.ends


*************************************************************
*************************************************************
********************End Index 8******************************
*************************************************************
*************************************************************

**** DUT instance
XCSamp_10 in vo_10 CSAMP_10 
**** Save output voltage for each instance

***.save vm(vo_10)


************** CS AMP Basic Optimization **********
* Common-source amplifier

.subckt CSAMP_10 vs vo 
.model nch nmos level=1 vto=0.5 kp=50u tox=15n 
.param rd=995

.param vov = '0.4039512498386974 *1'    

vs   vs   0    ac  1 dc '0.5+vov'  
vb   vb   0    2.5
ib   0    vo   '0.0005795197522306057 *1'  
****Bias Current 



rs   vs   vg   '2*rd' 
rd   vb   vo   'rd'
m1   vo   vg   0  0  nch   w=0.0003686935237272782 l=1u
cl   vo   0    1e-12
.ends


*************************************************************
*************************************************************
********************End Index 9******************************
*************************************************************
*************************************************************

**** DUT instance
XCSamp_11 in vo_11 CSAMP_11 
**** Save output voltage for each instance

***.save vm(vo_11)


************** CS AMP Basic Optimization **********
* Common-source amplifier

.subckt CSAMP_11 vs vo 
.model nch nmos level=1 vto=0.5 kp=50u tox=15n 
.param rd=995

.param vov = '0.2539512498386974 *1'    

vs   vs   0    ac  1 dc '0.5+vov'  
vb   vb   0    2.5
ib   0    vo   '0.0007795197522306057 *1'  
****Bias Current 



rs   vs   vg   '2*rd' 
rd   vb   vo   'rd'
m1   vo   vg   0  0  nch   w=0.0002786935237272782 l=1u
cl   vo   0    1e-12
.ends


*************************************************************
*************************************************************
********************End Index 10******************************
*************************************************************
*************************************************************

**** DUT instance
XCSamp_12 in vo_12 CSAMP_12 
**** Save output voltage for each instance

***.save vm(vo_12)


************** CS AMP Basic Optimization **********
* Common-source amplifier

.subckt CSAMP_12 vs vo 
.model nch nmos level=1 vto=0.5 kp=50u tox=15n 
.param rd=995

.param vov = '0.4414512498386974 *1'    

vs   vs   0    ac  1 dc '0.5+vov'  
vb   vb   0    2.5
ib   0    vo   '0.00037951975223060553 *1'  
****Bias Current 



rs   vs   vg   '2*rd' 
rd   vb   vo   'rd'
m1   vo   vg   0  0  nch   w=0.00018869352372727818 l=1u
cl   vo   0    1e-12
.ends


*************************************************************
*************************************************************
********************End Index 11******************************
*************************************************************
*************************************************************

**** DUT instance
XCSamp_13 in vo_13 CSAMP_13 
**** Save output voltage for each instance

***.save vm(vo_13)


************** CS AMP Basic Optimization **********
* Common-source amplifier

.subckt CSAMP_13 vs vo 
.model nch nmos level=1 vto=0.5 kp=50u tox=15n 
.param rd=995

.param vov = '0.2914512498386974 *1'    

vs   vs   0    ac  1 dc '0.5+vov'  
vb   vb   0    2.5
ib   0    vo   '0.000512853085563939 *1'  
****Bias Current 



rs   vs   vg   '2*rd' 
rd   vb   vo   'rd'
m1   vo   vg   0  0  nch   w=0.00045869352372727816 l=1u
cl   vo   0    1e-12
.ends


*************************************************************
*************************************************************
********************End Index 12******************************
*************************************************************
*************************************************************

**** DUT instance
XCSamp_14 in vo_14 CSAMP_14 
**** Save output voltage for each instance

***.save vm(vo_14)


************** CS AMP Basic Optimization **********
* Common-source amplifier

.subckt CSAMP_14 vs vo 
.model nch nmos level=1 vto=0.5 kp=50u tox=15n 
.param rd=995

.param vov = '0.36645124983869737 *1'    

vs   vs   0    ac  1 dc '0.5+vov'  
vb   vb   0    2.5
ib   0    vo   '0.000712853085563939 *1'  
****Bias Current 



rs   vs   vg   '2*rd' 
rd   vb   vo   'rd'
m1   vo   vg   0  0  nch   w=0.00013469352372727817 l=1u
cl   vo   0    1e-12
.ends


*************************************************************
*************************************************************
********************End Index 13******************************
*************************************************************
*************************************************************

**** DUT instance
XCSamp_15 in vo_15 CSAMP_15 
**** Save output voltage for each instance

***.save vm(vo_15)


************** CS AMP Basic Optimization **********
* Common-source amplifier

.subckt CSAMP_15 vs vo 
.model nch nmos level=1 vto=0.5 kp=50u tox=15n 
.param rd=995

.param vov = '0.2164512498386974 *1'    

vs   vs   0    ac  1 dc '0.5+vov'  
vb   vb   0    2.5
ib   0    vo   '0.00031285308556393894 *1'  
****Bias Current 



rs   vs   vg   '2*rd' 
rd   vb   vo   'rd'
m1   vo   vg   0  0  nch   w=0.00040469352372727826 l=1u
cl   vo   0    1e-12
.ends


*************************************************************
*************************************************************
********************End Index 14******************************
*************************************************************
*************************************************************

**** DUT instance
XCSamp_16 in vo_16 CSAMP_16 
**** Save output voltage for each instance

***.save vm(vo_16)


************** CS AMP Basic Optimization **********
* Common-source amplifier

.subckt CSAMP_16 vs vo 
.model nch nmos level=1 vto=0.5 kp=50u tox=15n 
.param rd=995

.param vov = '0.4883262498386974 *1'    

vs   vs   0    ac  1 dc '0.5+vov'  
vb   vb   0    2.5
ib   0    vo   '0.00042396419667505003 *1'  
****Bias Current 



rs   vs   vg   '2*rd' 
rd   vb   vo   'rd'
m1   vo   vg   0  0  nch   w=0.0003146935237272782 l=1u
cl   vo   0    1e-12
.ends


*************************************************************
*************************************************************
********************End Index 15******************************
*************************************************************
*************************************************************

**** DUT instance
XCSamp_17 in vo_17 CSAMP_17 
**** Save output voltage for each instance

***.save vm(vo_17)


************** CS AMP Basic Optimization **********
* Common-source amplifier

.subckt CSAMP_17 vs vo 
.model nch nmos level=1 vto=0.5 kp=50u tox=15n 
.param rd=995

.param vov = '0.3383262498386974 *1'    

vs   vs   0    ac  1 dc '0.5+vov'  
vb   vb   0    2.5
ib   0    vo   '0.0006239641966750502 *1'  
****Bias Current 



rs   vs   vg   '2*rd' 
rd   vb   vo   'rd'
m1   vo   vg   0  0  nch   w=0.00022469352372727816 l=1u
cl   vo   0    1e-12
.ends


*************************************************************
*************************************************************
********************End Index 16******************************
*************************************************************
*************************************************************

**** DUT instance
XCSamp_18 in vo_18 CSAMP_18 
**** Save output voltage for each instance

***.save vm(vo_18)


************** CS AMP Basic Optimization **********
* Common-source amplifier

.subckt CSAMP_18 vs vo 
.model nch nmos level=1 vto=0.5 kp=50u tox=15n 
.param rd=995

.param vov = '0.41332624983869737 *1'    

vs   vs   0    ac  1 dc '0.5+vov'  
vb   vb   0    2.5
ib   0    vo   '0.00022396419667505005 *1'  
****Bias Current 



rs   vs   vg   '2*rd' 
rd   vb   vo   'rd'
m1   vo   vg   0  0  nch   w=0.0004946935237272782 l=1u
cl   vo   0    1e-12
.ends


*************************************************************
*************************************************************
********************End Index 17******************************
*************************************************************
*************************************************************

**** DUT instance
XCSamp_19 in vo_19 CSAMP_19 
**** Save output voltage for each instance

***.save vm(vo_19)


************** CS AMP Basic Optimization **********
* Common-source amplifier

.subckt CSAMP_19 vs vo 
.model nch nmos level=1 vto=0.5 kp=50u tox=15n 
.param rd=995

.param vov = '0.2633262498386974 *1'    

vs   vs   0    ac  1 dc '0.5+vov'  
vb   vb   0    2.5
ib   0    vo   '0.0005572975300083835 *1'  
****Bias Current 



rs   vs   vg   '2*rd' 
rd   vb   vo   'rd'
m1   vo   vg   0  0  nch   w=0.00011669352372727817 l=1u
cl   vo   0    1e-12
.ends


*************************************************************
*************************************************************
********************End Index 18******************************
*************************************************************
*************************************************************

**** DUT instance
XCSamp_20 in vo_20 CSAMP_20 
**** Save output voltage for each instance

***.save vm(vo_20)


************** CS AMP Basic Optimization **********
* Common-source amplifier

.subckt CSAMP_20 vs vo 
.model nch nmos level=1 vto=0.5 kp=50u tox=15n 
.param rd=995

.param vov = '0.4508262498386974 *1'    

vs   vs   0    ac  1 dc '0.5+vov'  
vb   vb   0    2.5
ib   0    vo   '0.0007572975300083834 *1'  
****Bias Current 



rs   vs   vg   '2*rd' 
rd   vb   vo   'rd'
m1   vo   vg   0  0  nch   w=0.0003866935237272782 l=1u
cl   vo   0    1e-12
.ends


*************************************************************
*************************************************************
********************End Index 19******************************
*************************************************************
*************************************************************

**** DUT instance
XCSamp_21 in vo_21 CSAMP_21 
**** Save output voltage for each instance

***.save vm(vo_21)


************** CS AMP Basic Optimization **********
* Common-source amplifier

.subckt CSAMP_21 vs vo 
.model nch nmos level=1 vto=0.5 kp=50u tox=15n 
.param rd=995

.param vov = '0.3008262498386974 *1'    

vs   vs   0    ac  1 dc '0.5+vov'  
vb   vb   0    2.5
ib   0    vo   '0.00035729753000838334 *1'  
****Bias Current 



rs   vs   vg   '2*rd' 
rd   vb   vo   'rd'
m1   vo   vg   0  0  nch   w=0.0002966935237272782 l=1u
cl   vo   0    1e-12
.ends


*************************************************************
*************************************************************
********************End Index 20******************************
*************************************************************
*************************************************************

**** DUT instance
XCSamp_22 in vo_22 CSAMP_22 
**** Save output voltage for each instance

***.save vm(vo_22)


************** CS AMP Basic Optimization **********
* Common-source amplifier

.subckt CSAMP_22 vs vo 
.model nch nmos level=1 vto=0.5 kp=50u tox=15n 
.param rd=995

.param vov = '0.3758262498386974 *1'    

vs   vs   0    ac  1 dc '0.5+vov'  
vb   vb   0    2.5
ib   0    vo   '0.0004906308633417167 *1'  
****Bias Current 



rs   vs   vg   '2*rd' 
rd   vb   vo   'rd'
m1   vo   vg   0  0  nch   w=0.0002066935237272782 l=1u
cl   vo   0    1e-12
.ends


*************************************************************
*************************************************************
********************End Index 21******************************
*************************************************************
*************************************************************

**** DUT instance
XCSamp_23 in vo_23 CSAMP_23 
**** Save output voltage for each instance

***.save vm(vo_23)


************** CS AMP Basic Optimization **********
* Common-source amplifier

.subckt CSAMP_23 vs vo 
.model nch nmos level=1 vto=0.5 kp=50u tox=15n 
.param rd=995

.param vov = '0.2258262498386974 *1'    

vs   vs   0    ac  1 dc '0.5+vov'  
vb   vb   0    2.5
ib   0    vo   '0.0006906308633417167 *1'  
****Bias Current 



rs   vs   vg   '2*rd' 
rd   vb   vo   'rd'
m1   vo   vg   0  0  nch   w=0.0004766935237272782 l=1u
cl   vo   0    1e-12
.ends


*************************************************************
*************************************************************
********************End Index 22******************************
*************************************************************
*************************************************************

**** DUT instance
XCSamp_24 in vo_24 CSAMP_24 
**** Save output voltage for each instance

***.save vm(vo_24)


************** CS AMP Basic Optimization **********
* Common-source amplifier

.subckt CSAMP_24 vs vo 
.model nch nmos level=1 vto=0.5 kp=50u tox=15n 
.param rd=995

.param vov = '0.35 *1'    

vs   vs   0    ac  1 dc '0.5+vov'  
vb   vb   0    2.5
ib   0    vo   '0.0005 *1'  
****Bias Current 



rs   vs   vg   '2*rd' 
rd   vb   vo   'rd'
m1   vo   vg   0  0  nch   w=0.000275 l=1u
cl   vo   0    1e-12
.ends


*************************************************************
*************************************************************
********************End Index 23******************************
*************************************************************
*************************************************************

**** DUT instance
XCSamp_25 in vo_25 CSAMP_25 
**** Save output voltage for each instance

***.save vm(vo_25)


************** CS AMP Basic Optimization **********
* Common-source amplifier

.subckt CSAMP_25 vs vo 
.model nch nmos level=1 vto=0.5 kp=50u tox=15n 
.param rd=995

.param vov = '0.35 *1'    

vs   vs   0    ac  1 dc '0.5+vov'  
vb   vb   0    2.5
ib   0    vo   '0.0005 *1'  
****Bias Current 



rs   vs   vg   '2*rd' 
rd   vb   vo   'rd'
m1   vo   vg   0  0  nch   w=0.000275 l=1u
cl   vo   0    1e-12
.ends


*************************************************************
*************************************************************
********************End Index 24******************************
*************************************************************
*************************************************************

**** Input sources
.options temp=27
.options method=gear

** Set global behavior settings and measurement commands
.control
set ngbehavior=hs
set wr_singlescale
set wr_vecnames
ac dec 10 1 10G

** Measure gain and 3dB bandwidth
meas ac GAIN find vm(vo) at=10
meas ac freq_3db when vm(vo) =2.82
print gain > Amp_Test_Optimization/simulations/output.txt
print freq_3db >> Amp_Test_Optimization/simulations/output.txt

.endc
